US04704459
In 150 ml of methylene chloride was suspended 5.00 g of 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinic acid, and 5.98 g of thionyl chloride and 3 drops of N,N-dimethylformamide was added thereto, after which the resulting mixture was subjected to reaction under reflux for 2 hours. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 10 ml of n-hexane, after which crystals were collected by filtration to obtain 4.87 g (yield 91.7%) of 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl chloride having a melting point of 153°-154° C.

reactant | 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinic acid | 5.00 g | FC1=C(C=CC(=C1)F)NC1=C(C(=O)O)C=C(C(=N1)OC)F | C13H9F3N2O3
reactant | thionyl chloride | 5.98 g | S(=O)(Cl)Cl | Cl2OS
reactant | n-hexane | 10 ml | CCCCCC | C6H14
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl chloride | 4.87 g, yield 91.7% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)Cl)C=C(C(=N1)OC)F | C13H8ClF3N2O2
